US05929067
(a) 4-(1H-Indol-3-yl)-3-oxo-butanoic acid ethyl ester
24.95 g (154 mmol) of carbonyldiimidazole are added at 0° C. to a solution of 24.5 g (140 mmol) of 3-indolyl-acetic acid in 250 ml of tetrahydrofuran and the mixture is stirred at 0° C. for 30 minutes. 46 g (161 mmol) of bis-(malonic acid monoethyl ester)magnesium salt are then added and the mixture is stirred at room temperature for 16 hours. The reaction mixture is concentrated by evaporation, and ice-cold 6N hydrochloric acid is added; diethyl ether is added and the organic phase is separated off. The organic phase is washed with aqueous 10% sodium hydrogen carbonate solution and brine, dried over magnesium sulfate and concentrated by evaporation. The title compound is obtained in the form of an orange oil. 1H-NMR (200 MHz): 8.22 (br. s, 1H), 7.53 (d, 1H), 7.37 (d, 1H), 7.28-7.10 (m, 3H), 4.23 (q, 2H), 3,93 (s, 2H), 3.46 (s, 2H), 1.22 (t, 3H).

reactant | carbonyldiimidazole | 154 mmol, 24.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-indolyl-acetic acid | 140 mmol, 24.5 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-(1H-Indol-3-yl)-3-oxo-butanoic acid ethyl ester | C(C)OC(CC(CC1=CNC2=CC=CC=C12)=O)=O | C14H15NO3
